US04574128
(a) 4-Allyloxy-3'-dimethylaminomethyleneaminosulfonyl-2,3,4'-trichlorobenzophenone
5.6 g (40 mmol) of allyl bromide are added dropwise, with magnetic stirring, to a mixture of 13.1 g (30 mmol) of 4-hydroxy-3'-dimethylaminomethyleneaminosulfonyl-2,3,4'-trichlorobenzophenone, 5.0 g (36 mmol) of ground potassium carbonate and 50 ml of dry dimethylformamide at room temperature, and the mixture is stirred for about 8 hours. The pale yellow suspension is then stirred in portions into a mixture of 400 ml of ice-water and 100 ml of 2N hydrochloric acid, and the precipitate is filtered off. Colorless crystals, melting point 141°-142° C. (from acetone/ethanol).

reactant | allyl bromide | 40 mmol, 5.6 g | C(C=C)Br | C3H5Br
reactant | 4-hydroxy-3'-dimethylaminomethyleneaminosulfonyl-2,3,4'-trichlorobenzophenone | 30 mmol, 13.1 g | OC1=C(C(=C(C(=O)C2=CC(=C(C=C2)Cl)S(=O)(=O)N=CN(C)C)C=C1)Cl)Cl | C16H13Cl3N2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Allyloxy-3'-dimethylaminomethyleneaminosulfonyl-2,3,4'-trichlorobenzophenone | C(C=C)OC1=C(C(=C(C(=O)C2=CC(=C(C=C2)Cl)S(=O)(=O)N=CN(C)C)C=C1)Cl)Cl | C19H17Cl3N2O4S
